US04113729
(-)-3-Phenoxy-N-cyclopropylmethylmorphinan
To a suspension of 0.4 g of lithium aluminum hydride in 20 ml of anhydrous tetrahydrofuran was added dropwise, 4.6 g (0.011 mol) of (-)-3-phenoxy-N-cyclopropylcarbonylmorphinan in 30 ml of anhydrous tetrahydrofuran over a period of 15 minutes. After the mixture had been refluxed under nitrogen for 16 hours, it was cooled to room temperature and water was added dropwise. The resulting suspension was filtered and the filtrate was concentrated. The residue was partitioned between ether and 4 N hydrochloric acid. The acidic phase was made basic with concentrated ammonium hydroxide and the aqueous suspension was extracted with ether. The ether solution was washed with water and dried. Removal of the ether under reduced pressure afforded 2.6 g (59%) of the product (-)-3-phenoxy-N-cyclopropylmethylmorphinan. For analysis, a sample of this compound was distilled, bp 190°200°/0.1mmHg, [α]25D -89.07° (c 0.99, MeOH).

reactant | lithium aluminum hydride | 0.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (-)-3-phenoxy-N-cyclopropylcarbonylmorphinan | 0.011 mol, 4.6 g | O(C1=CC=CC=C1)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3C(=O)C3CC3 | C26H29NO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (-)-3-Phenoxy-N-cyclopropylmethylmorphinan | 2.6 g, 59% | O(C1=CC=CC=C1)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3CC3CC3 | C26H31NO
